US05393730
Preparation of 2,3-difluoromethylenedioxybenzyl cyanide
2,3-Difluoromethylenedioxybenzyl bromide (40.4 g) was dissolved in ethanol and potassium cyanide (11.3 g) was added. The mixture was stirred at 70° C. for 5 hours. Water and a further portion of potassium cyanide (2 g) were added and the mixture was stirred at 70° C. for a further 3 hours. Most of the solvent was removed in vacuo and water was added to the residue, which was extracted with diethyl ether, washed with water, dried and concentrated to yield the title compound as a yellow oil, (30.2 g), NMR (CDCl3): 3.80(s,2H), 7.10(m,3H).

reactant | 2,3-Difluoromethylenedioxybenzyl bromide | 40.4 g | FC1=C2C(OCOC(=C1F)C=C2)Br | C8H5BrF2O2
reactant | potassium cyanide | 11.3 g | [C-]#N.[K+]
reactant | Water | O | H2O
reactant | potassium cyanide | 2 g | [C-]#N.[K+]
solvent | ethanol | C(C)O | C2H6O
product | 2,3-difluoromethylenedioxybenzyl cyanide | 30.2 g | FC1=C2C(OCOC(=C1F)C=C2)C#N | C9H5F2NO2
